US05221492
The solubility of the FC-218/DME azeotrope (90.3/9.7) and the HFC-227ea/DME azeotrope (87.5/12.5) in polystyrene was determined by combining a piece of polystyrene (about 2.5 cm long, 0.5 cm wide and 0.05 cm thick) with about 50 g azeotrope. The azeotropes, FC-218 and HFC-227ea showed little or no solvency for polystyrene, producing no plasticization of the thermoplastic polymer. The data are summarized in Table IV.

reactant | HFC-227ea DME | C(C(F)(F)F)(C(F)(F)F)F.COCCOC
solvent | DME | COCCOC | C4H10O2
product | HFC-227ea | C(C(F)(F)F)(C(F)(F)F)F | C3HF7
